US07365225B2
2-hydroxy-5-({(4-{[(4-pentylbenzyl)amino]carbonyl}benzyl)[4-(trifluoromethyl)benzoyl]amino}methyl)benzoic acid
The title compound was prepared following the procedure A using 4-pentylbenzylamine, 4-(chloromethyl)benzoyl chloride, 4-(trifluoromethyl)benzoyl chloride and 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate. M+(ESI): 633.4

reactant | 4-pentylbenzylamine | C(CCCC)C1=CC=C(CN)C=C1 | C12H19N
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 4-(trifluoromethyl)benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate | C(C)(=O)O.NCC1=CC2=C(OC(OC2=O)(C)C)C=C1
product | 2-hydroxy-5-({(4-{[(4-pentylbenzyl)amino]carbonyl}benzyl)[4-(trifluoromethyl)benzoyl]amino}methyl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)CN(C(C1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)CCCCC | C36H35F3N2O5
